US05393755
1-Methyl-7-(phenylmethyl)purine-2,6-dione
To 6-amino-3-methyl-5-(phenylmethylamino)pyrimidine-2,4-dione (24.6 g=0.1 mol) in DMF (125 ml) at 60° C. add triethyl orthoformate (75 ml=0.45 mol). Heat to 110° C. for 5 hr, cool in ice, filter, and wash with methanol, then ether, to obtain the title compound, m.p. 268°-71° C.

reactant | 6-amino-3-methyl-5-(phenylmethylamino)pyrimidine-2,4-dione | 0.1 mol, 24.6 g | NC1=C(C(N(C(N1)=O)C)=O)NCC1=CC=CC=C1 | C12H14N4O2
reactant | triethyl orthoformate | 0.45 mol, 75 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-7-(phenylmethyl)purine-2,6-dione | CN1C(NC=2N=CN(C2C1=O)CC1=CC=CC=C1)=O | C13H12N4O2
